### PR TITLE
[Merged by Bors] - feat(Data/Nat/Log) : when log and clog of successive integers are equal

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Prove 4 lemmas that describe when `Nat.log b n = Nat.log b (n + 1)`
and `Nat.clog b n = Nat.clog b (n + 1)`.

`Nat.log_eq_log_succ_iff`, `Nat.log_lt_log_succ_iff`, and the two variants for `Nat.clog`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Log.lean [hunk 1]
```diff
@@ -176,6 +176,20 @@ theorem log_monotone {b : ℕ} : Monotone (log b) := by
 theorem log_mono_right {b n m : ℕ} (h : n ≤ m) : log b n ≤ log b m :=
   log_monotone h
 
+theorem log_lt_log_succ_iff {b n : ℕ} (hb : 1 < b) (hn : 1 ≤ n) :
+    log b n < Nat.log b (n + 1) ↔ n + 1 = b ^ (Nat.log b (n + 1)) := by
+  refine ⟨fun H ↦ ?_, fun H ↦ ?_⟩
+  · apply le_antisymm (Nat.lt_pow_of_log_lt hb H)
+    exact Nat.pow_log_le_self b (Ne.symm (Nat.zero_ne_add_one n))
+  · apply Nat.log_lt_of_lt_pow (Nat.ne_zero_of_lt hn)
+    simp [← H]
```
Comment (b-mehta) [inline Mathlib/Data/Nat/Log.lean]: In relation to natural numbers, the general mathlib guideline is to use `n ≠ 0` over `0 < n` or `1 ≤ n` as a hypothesis. To save you some time, I modified the proof to incorporate that change:

```suggestion
theorem log_lt_log_succ_iff {b n : ℕ} (hb : 1 < b) (hn : n ≠ 0) :
    log b n < log b (n + 1) ↔ n + 1 = b ^ log b (n + 1) := by
  refine ⟨fun H ↦ ?_, fun H ↦ ?_⟩
  · exact le_antisymm (lt_pow_of_log_lt hb H) (Nat.pow_log_le_self b (by simp))
  · exact Nat.log_lt_of_lt_pow hn (by simp [← H])
```

File: Mathlib/Data/Nat/Log.lean [hunk 2]
```diff
@@ -176,6 +176,20 @@ theorem log_monotone {b : ℕ} : Monotone (log b) := by
...
+
+theorem log_eq_log_succ_iff {b n : ℕ} (hb : 1 < b) (hn : 1 ≤ n) :
+    log b n = log b (n + 1) ↔ n + 1 ≠ b ^ (log b (n + 1)) := by
+  rw [ne_eq, ← log_lt_log_succ_iff hb hn, not_lt]
+  simp only [le_antisymm_iff, and_iff_right_iff_imp]
+  exact fun  _ ↦ log_monotone (le_add_right n 1)
```
Comment (b-mehta) [inline Mathlib/Data/Nat/Log.lean]:
```suggestion
theorem log_eq_log_succ_iff {b n : ℕ} (hb : 1 < b) (hn : n ≠ 0) :
    log b n = log b (n + 1) ↔ n + 1 ≠ b ^ log b (n + 1) := by
  rw [ne_eq, ← log_lt_log_succ_iff hb hn, not_lt, le_antisymm_iff, and_iff_right]
  exact log_monotone (le_add_right n 1)
```
as before!

File: Mathlib/Data/Nat/Log.lean [hunk 3]
```diff
@@ -322,6 +336,21 @@ theorem log_le_clog (b n : ℕ) : log b n ≤ clog b n := by
     exact (Nat.pow_le_pow_iff_right hb).1
       ((pow_log_le_self b n.succ_ne_zero).trans <| le_pow_clog hb _)
 
+theorem clog_lt_clog_succ_iff {b n : ℕ} (hb : 1 < b) :
+    clog b n < clog b (n + 1) ↔ n  = b ^ (clog b n) := by
```
Comment (b-mehta) [inline Mathlib/Data/Nat/Log.lean]:
```suggestion
    clog b n < clog b (n + 1) ↔ n = b ^ clog b n := by
```

File: Mathlib/Data/Nat/Log.lean [hunk 4]
```diff
@@ -322,6 +336,21 @@ theorem log_le_clog (b n : ℕ) : log b n ≤ clog b n := by
...
+  refine ⟨fun H ↦ ?_, fun H ↦ ?_⟩
+  · apply le_antisymm (le_pow_clog hb n)
+    apply le_of_lt_succ
+    exact (pow_lt_iff_lt_clog hb).mpr H
+  · rw [← pow_lt_iff_lt_clog hb, ← H]
+    exact n.lt_add_one
+
+theorem clog_eq_clog_succ_iff {b n : ℕ} (hb : 1 < b) :
+    clog b n = clog b (n + 1) ↔ n ≠ b ^ (clog b n) := by
```
Comment (b-mehta) [inline Mathlib/Data/Nat/Log.lean]:
```suggestion
    clog b n = clog b (n + 1) ↔ n ≠ b ^ clog b n := by
```

File: Mathlib/Data/Nat/Log.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Nat/Log.lean]: Thanks a lot!

**Review by b-mehta — COMMENTED** [review]
I think this looks good, my only hesitation is if it makes more sense to write `log_succ_eq_log_iff` and `log b (n + 1) = log b n` on the left hand side instead, and similarly `b ^ log b (n + 1) ≠ n + 1`, since in both cases the new lhs is more complex than the rhs. But I won't insist upon it, what do you think?

**Comment by AntoineChambert-Loir** [comment]
The reason I thought of it this way is that the log function is monotone and we prefer `le`

File: Mathlib/Data/Nat/Log.lean [hunk 5]
```diff
@@ -176,6 +176,17 @@ theorem log_monotone {b : ℕ} : Monotone (log b) := by
 theorem log_mono_right {b n m : ℕ} (h : n ≤ m) : log b n ≤ log b m :=
   log_monotone h
 
+theorem log_lt_log_succ_iff {b n : ℕ} (hb : 1 < b) (hn : n ≠ 0) :
+    log b n < log b (n + 1) ↔ n + 1 = b ^ log b (n + 1) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Log.lean]: I would expect
```suggestion
    log b n < log b (n + 1) ↔ b ^ log b (n + 1) = n + 1 := by
```
and similar below

**Comment by b-mehta** [comment]
I think the changes I'd suggested above, to avoid 1 <= n, got reverted?

**Comment by AntoineChambert-Loir** [comment]
probably a merge issue…

File: Mathlib/Data/Nat/Log.lean [hunk 6]
```diff
@@ -176,6 +176,20 @@ theorem log_monotone {b : ℕ} : Monotone (log b) := by
 theorem log_mono_right {b n m : ℕ} (h : n ≤ m) : log b n ≤ log b m :=
   log_monotone h
 
+theorem log_lt_log_succ_iff {b n : ℕ} (hb : 1 < b) (hn : n ≠ 0) :
+    log b n < Nat.log b (n + 1) ↔ b ^ (Nat.log b (n + 1)) = n + 1:= by
```
Comment (b-mehta) [inline Mathlib/Data/Nat/Log.lean]:
```suggestion
    log b n < log b (n + 1) ↔ b ^ log b (n + 1) = n + 1 := by
```

File: Mathlib/Data/Nat/Log.lean [hunk 7]
```diff
@@ -176,6 +176,20 @@ theorem log_monotone {b : ℕ} : Monotone (log b) := by
...
+  refine ⟨fun H ↦ ?_, fun H ↦ ?_⟩
+  · apply le_antisymm _ (Nat.lt_pow_of_log_lt hb H)
+    exact Nat.pow_log_le_self b (Ne.symm (Nat.zero_ne_add_one n))
+  · apply Nat.log_lt_of_lt_pow hn
+    simp [H]
+
+theorem log_eq_log_succ_iff {b n : ℕ} (hb : 1 < b) (hn : n ≠ 0) :
+    log b n = log b (n + 1) ↔ b ^ (log b (n + 1)) ≠ n + 1 := by
```
Comment (b-mehta) [inline Mathlib/Data/Nat/Log.lean]:
```suggestion
    log b n = log b (n + 1) ↔ b ^ log b (n + 1) ≠ n + 1 := by
```

File: Mathlib/Data/Nat/Log.lean [hunk 8]
```diff
@@ -322,6 +336,21 @@ theorem log_le_clog (b n : ℕ) : log b n ≤ clog b n := by
     exact (Nat.pow_le_pow_iff_right hb).1
       ((pow_log_le_self b n.succ_ne_zero).trans <| le_pow_clog hb _)
 
+theorem clog_lt_clog_succ_iff {b n : ℕ} (hb : 1 < b) :
+    clog b n < clog b (n + 1) ↔ b ^ (clog b n) = n := by
```
Comment (b-mehta) [inline Mathlib/Data/Nat/Log.lean]:
```suggestion
    clog b n < clog b (n + 1) ↔ b ^ clog b n = n := by
```

File: Mathlib/Data/Nat/Log.lean [hunk 9]
```diff
@@ -322,6 +336,21 @@ theorem log_le_clog (b n : ℕ) : log b n ≤ clog b n := by
...
+  refine ⟨fun H ↦ ?_, fun H ↦ ?_⟩
+  · apply le_antisymm _ (le_pow_clog hb n)
+    apply le_of_lt_succ
+    exact (pow_lt_iff_lt_clog hb).mpr H
+  · rw [← pow_lt_iff_lt_clog hb, H]
+    exact n.lt_add_one
+
+theorem clog_eq_clog_succ_iff {b n : ℕ} (hb : 1 < b) :
+    clog b n = clog b (n + 1) ↔ b ^ (clog b n) ≠ n := by
```
Comment (b-mehta) [inline Mathlib/Data/Nat/Log.lean]:
```suggestion
    clog b n = clog b (n + 1) ↔ b ^ clog b n ≠ n := by
```

**Review by b-mehta — APPROVED** [review]
Modulo the above suggestions, I'm now happy with this!

**Comment by b-mehta** [comment]
Thanks!

bors merge
